US08304446B2
N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxyethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxy-2-methylpropanamide
Triethylamine (0.021 mL, 0.151 mmol) was added to N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxyethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 77) (24 mg, 0.050 mmol) in dichloromethane (1 mL). 2-Chloro-1,1-dimethyl-2-oxoethyl acetate (7.92 μL, 0.055 mmol) was added and the reaction mixture was stirred at room temp for 2 h. The reaction mixture was concentrated on the blowdown unit, potassium carbonate (69.5 mg, 0.503 mmol) and methanol (2 mL) was added and the mixture was stirred at room temp for 1 h. The mixture was concentrated, acidified with 2N HCl and extracted with EtOAc (2×15 mL). The combined organic layers were dried by passing through a hydrophobic frit and concentrated to afford the crude product. The residue was dissolved in DMSO (1 mL) and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a Formic acid modifier (Method A). The solvent was removed under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound (10.5 mg, 37%). LCMS (System A) RT=0.99 min, ES+ve m/z 563/565 (M+H)+.

reactant | Triethylamine | 0.151 mmol, 0.021 mL | C(C)N(CC)CC | C6H15N
reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxyethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)C(C)O)NS(=O)(=O)C=1SC(=CC1)Cl | C21H21ClN4O3S2
reactant | 2-Chloro-1,1-dimethyl-2-oxoethyl acetate | 0.055 mmol, 7.92 μL | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
reactant | potassium carbonate | 0.503 mmol, 69.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 1 mL | ClCCl | CH2Cl2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | methanol | 2 mL | CO | CH4O
product | N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxyethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxy-2-methylpropanamide | 10.5 mg, 37% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)C(C)O)CC=1C=C(C=CC1)CNC(C(C)(C)O)=O | C25H27ClN4O5S2
